US07012075B2
To N1-(cyanomethyl)-N2-(1-(tert-butoxycarbonyl)-4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1H-pyrazol-3-yl)leucinamide (163 mg, 0.274 mmol) in dry THF (0.5 mL) under dry nitrogen was gradually added a total of 5 equivalents of MeSO3H (100 μL, 1.37 mmol) over a period of 3 hours in portions of 1–2 equivalents at a time and the reaction mixture was stirred overnight. Aqueous sat. NaHCO3 was added carefully and the product extracted with EtOAc (2×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel NH4OH/MeOH/CH2Cl2, 1/9/90) to afford N1-(cyanomethyl)-N2-[4-(4-piperazin-1-ylphenyl)-1H-pyrazol-3-yl]leucinamide. MS (+ESI): 398.4 [M+1]+.

reactant | N1-(cyanomethyl)-N2-(1-(tert-butoxycarbonyl)-4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1H-pyrazol-3-yl)leucinamide | 0.274 mmol, 163 mg | C(#N)CNC([C@@H](NC1=NN(C=C1C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CC(C)C)=O | C31H45N7O5
reactant | MeSO3H | 1.37 mmol, 100 μL, 5 equivalents | CS(=O)(=O)O | CH4O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | N1-(cyanomethyl)-N2-[4-(4-piperazin-1-ylphenyl)-1H-pyrazol-3-yl]leucinamide | C(#N)CNC([C@@H](NC1=NNC=C1C1=CC=C(C=C1)N1CCNCC1)CC(C)C)=O | C21H29N7O
